US07361763B2
2-[3-Methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane was prepared as follows. To a flame-dried 50 ml round bottomed flask were added 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (1.00 g, 4.00 mmol) and anhydrous DMF (20 ml). Sodium hydride (251 mg, 6.29 mmol; 60% dispersion in mineral oil) was added in three portions, and the suspension was stirred under nitrogen for 30 minutes para-Methoxy benzyl chloride (655 μl, 3.62 mmol) and tetrabutyl ammonium iodide (10 mg, 0.03 mmol) were added, and the reaction mixture was stirred for an additional 16 hours. The reaction mixture was concentrated, then cooled in an ice-bath, and 50 ml of 1 M citric acid was added followed by 100 ml ethyl acetate. The layers were separated, and the aqueous phase was extracted three times with ethyl acetate. The combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated to give a tan powder. Trituration with diethyl ether gave 1.34 g (91%) of 2-[3-Methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as a tan powder. 1H-NMR (CDCl3) δ=7.35 (m, 2H), 7.29 (s, 1H), 7.26 (s, 1H), 6.89(m, 3H), 5.11(s, 2H), 3.91 (s, 3H), 3.80 (s, 3H), 1.33 (s, 12H); MS m/z: 393 [M+Na]+.

reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 4.00 mmol, 1.00 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | Sodium hydride | 6.29 mmol, 251 mg | [H-].[Na+]
reactant | para-Methoxy benzyl chloride | 3.62 mmol, 655 μl | COC1=CC=C(CCl)C=C1 | C8H9ClO
catalyst | tetrabutyl ammonium iodide | 0.03 mmol, 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[3-Methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.34 g, 91% | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C21H27BO5
